US03933781
α-L-Aspartyl-L-Phenylalanine Methyl Ester
A solution of 1.86 g. of α-L-aspartyl-L-phenylalanine, 2.9 ml. of 2.6 N hydrochloric acid in methanol and 7.2 ml. of methanol was stirred at 30°C. for 2 hours. The resulting yields, based on the initial charge of α-L-aspartyl-L-phenylalanine, are as follows (by TLC):

reactant | α-L-aspartyl-L-phenylalanine | N[C@@H](CC(O)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C13H16N2O5
reactant | hydrochloric acid | 2.6 N | Cl | ClH
reactant | methanol | CO | CH4O
product | α-L-Aspartyl-L-Phenylalanine Methyl Ester | COC([C@@H](NC([C@@H](N)CC(O)=O)=O)CC1=CC=CC=C1)=O | C14H18N2O5
